US06451814B1
N-[4-({4-[4-(2-{[(2S)-3-(2-allylphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N-hexylurea
N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N′-hexylurea formate (0.172 g 0.314 mmol) was reacted (2S)-2-[(4-fluorophenoxy)methyl]oxirane (0.06 g, 0.315 mmol) according to Procedure G to give the title compound (0.04 g, 0.058 mmol).

reactant | N-[4-({4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N′-hexylurea formate | 0.314 mmol, 0.172 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)S(=O)(=O)C2=CC=C(C=C2)NC(=O)NCCCCCC)C=C1
reactant | (2S)-2-[(4-fluorophenoxy)methyl]oxirane | 0.315 mmol, 0.06 g | FC1=CC=C(OC[C@H]2OC2)C=C1 | C9H9FO2
product | N-[4-({4-[4-(2-{[(2S)-3-(2-allylphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}sulfonyl)phenyl]-N-hexylurea | 0.058 mmol, 0.04 g | C(C=C)C1=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)S(=O)(=O)C3=CC=C(C=C3)N(C(=O)N)CCCCCC)C=C2)O)C=CC=C1 | C38H53N5O5S
